US07935715B2
To a solution of 115 mg (0.30 mmol) N-(5-tert-butyl-isoxazol-3-yl)-2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionamide in methanol (3 mL) were added 0.14 mL (0.6 mmol, 25 wt % solution in methanol) of sodium methoxide solution. The reaction mixture was heated in a sealed tube to 60° C. for 4 h. The solution was concentrated under reduced pressure and the residue purified by column chromatography (silica, eluent DCM, 0-20% ethyl acetate) to afford 36 mg of N-(5-tert-butyl-isoxazol-3-yl)-2-(6-methoxy-pyridine-3-sulfonyl)-2-methyl-propionamide.

reactant | N-(5-tert-butyl-isoxazol-3-yl)-2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionamide | 0.30 mmol, 115 mg | C(C)(C)(C)C1=CC(=NO1)NC(C(C)(C)S(=O)(=O)C=1C=NC(=CC1)Cl)=O | C16H20ClN3O4S
reactant | sodium methoxide | 0.6 mmol, 0.14 mL | C[O-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | N-(5-tert-butyl-isoxazol-3-yl)-2-(6-methoxy-pyridine-3-sulfonyl)-2-methyl-propionamide | 36 mg | C(C)(C)(C)C1=CC(=NO1)NC(C(C)(C)S(=O)(=O)C=1C=NC(=CC1)OC)=O | C17H23N3O5S
